US05580870
Using an analogous procedure to that described in Example 5, 4-chloro-6-(1-pyrrolidinyl)quinazoline was reacted with 5-amino-1H-indazole to give 4-(1H-indazol-5-ylamino)-6-(1-pyrrolidinyl)quinazoline hydrochloride in 78% yield, m.p. 271°-273° C.;

reactant | 4-chloro-6-(1-pyrrolidinyl)quinazoline | ClC1=NC=NC2=CC=C(C=C12)N1CCCC1 | C12H12ClN3
reactant | 5-amino-1H-indazole | NC=1C=C2C=NNC2=CC1 | C7H7N3
product | 4-(1H-indazol-5-ylamino)-6-(1-pyrrolidinyl)quinazoline hydrochloride | 78% yield | Cl.N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)N1CCCC1 | InChI=1S/C19H18N6.ClH/c1-2-8-25(7-1)15-4-6-18-16(10-15)19(21-12-20-18)23-14-3-5-17-13(9-14)11-22-24-17;/h3-6,9-12H,1-2,7-8H2,(H,22,24)(H,20,21,23);1H
